US06069114
A suspension of 37.8 g of sodium acetate in water is added, at 50-60° C., to a suspension of 31.1 g (0.154 mol) of 5,7-dimethylthio-chroman-4-one and 18.5 g (0.261 mol) of hydroxylamine hydrochloride in 200 ml of ethanol. This mixture is subsequently refluxed for 30 minutes. After cooling, filtration with suction of the solid which has precipitated gives 22.2 g of 5,7-dimethylthiochroman-4-one oxime (66% of theory, purity approx. 95%) of melting point 170-174° C.

reactant | sodium acetate | 37.8 g | C(C)(=O)[O-].[Na+]
reactant | 5,7-dimethylthio-chroman-4-one | 0.154 mol, 31.1 g | CC1=C2C(CCSC2=CC(=C1)C)=O | C11H12OS
reactant | hydroxylamine hydrochloride | 0.261 mol, 18.5 g | Cl.NO
solvent | water | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5,7-dimethylthiochroman-4-one oxime | 22.2 g, 66% | CC1=C2C(CCSC2=CC(=C1)C)=NO | C11H13NOS
